US08389527B2
A 250 mL round bottomed flask was charged with a mixture of 6,8-dichloroimidazo[1,2-b]pyridazine-3-carboxylic acid and 8-bromo-6-chloroimidazo[1,2-b]pyridazine-3-carboxylic acid (1.0 g, 4.31 mmol) 1D, 1,2-dichloroethane (33.2 mL), and DMF (0.267 mL, 3.45 mmol). To the resulting white suspension under nitrogen at room temperature was added oxalyl chloride (6.46 mL, 12.93 mmol) solution slowly via syringe, carefully monitoring gas evolution. Following cessation of bubbling, the reaction mixture was fitted with a reflux condenser and heated to 65° C. for 1 h, whereupon it slowly became a light yellow, homogeneous solution. The mixture was cooled to room temperature, toluene was added, and the solution was concentrated in vacuo. (This process was repeated two more times to remove excess oxalyl chloride.) The resulting solid was dried in vacuo. The light yellow solid was then suspended in 1,2-dichloroethane (33.2 mL) and charged with 3-fluoropyridin-4-amine (1.160 g, 10.34 mmol) and DIEA (4.52 mL, 25.9 mmol). The resulting light tan suspension stirred overnight at room temperature. The light brown suspension was filtered and washed with copious amounts of dichloromethane, which furnished a mixture of 6,8-dichloro-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide and 8-bromo-6-chloro-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (1.240 g, 84% yield) as a tan solid. LC/MS, m/z 325.0 (M+1). HPLC Rt=2.823 min. LC/MS, m/z 369.8 (M+1). HPLC Rt=2.946 min. YMC S5 ODS-A column (4.6×50 mm) 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.2% H3PO4). Solvent A: (10% MeOH, 90% H2O, 0.2% H3PO4). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% 1 min, flow rate 4 mL/min.

reactant | 6,8-dichloroimidazo[1,2-b]pyridazine-3-carboxylic acid | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)O)Cl | C7H3Cl2N3O2
reactant | 8-bromo-6-chloroimidazo[1,2-b]pyridazine-3-carboxylic acid | 4.31 mmol, 1.0 g | BrC=1C=2N(N=C(C1)Cl)C(=CN2)C(=O)O | C7H3BrClN3O2
reactant | DMF | 3.45 mmol, 0.267 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 12.93 mmol, 6.46 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-fluoropyridin-4-amine | 10.34 mmol, 1.160 g | FC=1C=NC=CC1N | C5H5FN2
reactant | DIEA | 25.9 mmol, 4.52 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6,8-dichloro-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=C(C=NC=C2)F)Cl | C12H6Cl2FN5O
solvent | 1,2-dichloroethane | 33.2 mL | ClCCCl | C2H4Cl2
product | 8-bromo-6-chloro-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 1.240 g, 84% yield | BrC=1C=2N(N=C(C1)Cl)C(=CN2)C(=O)NC2=C(C=NC=C2)F | C12H6BrClFN5O
